US06759425B2
Preparation of 2-(4-Cyclohexylcarbamoyl-phenyl)-3H-benzoimidazole-5-carboxylic Acid Cyclohexyamide:
A mixture of 2-(4-methoxycarbonyl-phenyl)-3H-benzoimidazole-5-carboxylic acid (5.0 g) in DMF (250 mL) and CDI (7.1 g) was stirred at RT for 3.0 hours and then treated with cyclohexyl amine (2.0 g) and refluxed for 96 hours. The reaction mixture was cooled and then poured into water (2.0 L) and stirred at RT for 16 hours. The product was filtered, washed with water and ether and then recrystallized from THF, methanol and ether. Yield 0.4 g. TLC one spot (9:1)-CH2Cl2—CH3OH.

reactant | 2-(4-methoxycarbonyl-phenyl)-3H-benzoimidazole-5-carboxylic acid | 5.0 g | COC(=O)C1=CC=C(C=C1)C=1NC2=C(N1)C=CC(=C2)C(=O)O | C16H12N2O4
reactant | CDI | 7.1 g | C1=CN(C=N1)C(=O)N2C=CN=C2 | C7H6N4O
reactant | cyclohexyl amine | 2.0 g | C1(CCCCC1)N | C6H13N
reactant | water | 2.0 L | O | H2O
solvent | DMF | 250 mL | CN(C)C=O | C3H7NO
product | 2-(4-Cyclohexylcarbamoyl-phenyl)-3H-benzoimidazole-5-carboxylic Acid | C1(CCCCC1)NC(=O)C1=CC=C(C=C1)C=1NC2=C(N1)C=CC(=C2)C(=O)O | C21H21N3O3
